US09353107B2
Step-ii: 6-cyclopropyl-3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in Step-ii of example-7, tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-6-cyclopropyl-3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (62 mg, 0.022 mmol) was deprotected in HCl in methanol (2 ml). This afforded 4 mg (5% yield) of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 8.44 (b, 1H), 7.68 (s, 1H), 7.42-7.39 (d, 2H), 7.02-7.00 (d, 2H), 6.661-6.641 (m, 1H), 6.311-6.305 (d, 1H), 5.26 (s, 2H), 3.25-3.21 (m, 3H), 3.10-3.07 (t, 3H), 2.41 (s, 3H), 2.32 (s, 3H), 1.13-1.10 (m, 2H), 0.88-0.85 (m, 4H). MS: m/z=539.2 (M+1).

reactant | tert-butyl 5-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-6-cyclopropyl-3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.022 mmol, 62 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C=C2C(=NC1C1CC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC(=C2)F)F)C)C(=O)OC(C)(C)C | C42H48F2N6O4
reactant | HCl | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 6-cyclopropyl-3-(1-(3,5-difluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 4 mg, 5% yield | Cl.C1(CC1)C1=C(C=C2C(=N1)NC=C2C=2C(=NN(C2C)CC2=CC(=CC(=C2)F)F)C)C2=CC=C(C=C2)N2CCNCC2 | InChI=1S/C32H32F2N6.ClH/c1-19-30(20(2)40(38-19)18-21-13-24(33)15-25(34)14-21)29-17-36-32-28(29)16-27(31(37-32)23-3-4-23)22-5-7-26(8-6-22)39-11-9-35-10-12-39;/h5-8,13-17,23,35H,3-4,9-12,18H2,1-2H3,(H,36,37);1H
